US05051413
A solution of 14.1 g of 2-isocyanopropionic acid methyl ester and 8.5 g of freshly distilled acrolein in 50 ml of tetrahydrofuran is added within a period of 20 minutes at 0°-5° under nitrogen to a solution of 17 g of anhydrous zinc chloride in 75 ml of tetrahydrofuran, and the whole is stirred for 45 hours at 0°-5°. The whole is poured onto 500 ml of 10% sodium hydrogen carbonate solution and extracted with 200 ml of dichloromethane. The organic phase is dried over sodium sulphateand concentrated by evaporation. Filtration of the residue over silica gel (ethyl acetate as eluant) yields 4-methyl-5-vinyl-2-oxazoline-4-carboxylicacid methyl ester. By hydrolysis of the 4-methyl-5-vinyl-2-oxazoline-4-carboxylic acid methyl ester in a manner analogous to that described in Example 1, 2-formylamino-2-methyl-3-hydroxy-4-pentenoic acid methyl ester is obtained. By reaction of the 2-formylamino-3-hydroxy-2-methyl-4-pentenoic acid methyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in the manner described in Example 1, E-2-formylamino-2-methyl-5-diethylphosphono-3-pentenoic acid methyl ester is obtained in the form of a yellow oil:

reactant | 2-formylamino-3-hydroxy-2-methyl-4-pentenoic acid methyl ester | COC(C(C(C=C)O)(C)NC=O)=O | C8H13NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | E-2-formylamino-2-methyl-5-diethylphosphono-3-pentenoic acid methyl ester | COC(C(\C=C\CP(=O)(OCC)OCC)(C)NC=O)=O | C12H22NO6P
